US07786044B2
20. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-ethyl-pyrimidine-4-carboxylic acid methyl ester (Compound 21)
6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-vinyl-pyrimidine-4-carboxylic acid methyl ester (200 mg, 0.7 mmol) was dissolved in ethanol (10 mL), palladium hydroxide (20% on carbon, 50 mg) was added, and the reaction mixture was stirred under an atmosphere of hydrogen for 4 h. The catalyst was then filtered off, the filtrate concentrated, and the product purified by flash chromatography on silica gel (hexane/ethyl acetate gradient) to yield the title compound (148 mg, 62% yield): mp 144-146° C.: 1H NMR (CDCl3) δ 7.61 (m, 1H), 7.20 (m, 1H), 5.19 (br s, 2H), 3.99 (d, 3H), 3.98 (s, 3H), 2.68 (q, 2H), 1.28 (t, 3H).

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-vinyl-pyrimidine-4-carboxylic acid methyl ester | 0.7 mmol, 200 mg | COC(=O)C1=NC(=NC(=C1C=C)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H13ClFN3O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-ethyl-pyrimidine-4-carboxylic acid methyl ester | 148 mg, 62% yield | COC(=O)C1=NC(=NC(=C1CC)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H15ClFN3O3
